US05234918
3-[[3-(Hexadecyloxy)-2-methoxypropoxy]methyl]benzenemethanol
To a suspension of 2.8 g of sodium hydride in 25 ml of dimethylformamide was added at 0° C. over 30 minutes a solution of 1,3-benzenedimethanol in 75 ml of dimethylformamide. After 30 minutes a solution of 3-(hexadecyloxy)-2-methoxy-1-propanol, 4-methyl benzene sulfonate in 25 ml of dinethylformamide was added over 30 minutes. After stirring 18 hours the mixture was poured into water and extracted with ethylacetate. The solution was dried and the product was purified by chromatography giving 4.7 g.

reactant | sodium hydride | 2.8 g | [H-].[Na+]
reactant | 1,3-benzenedimethanol | C1(=CC(=CC=C1)CO)CO | C8H10O2
reactant | 3-(hexadecyloxy)-2-methoxy-1-propanol | C(CCCCCCCCCCCCCCC)OCC(CO)OC | C20H42O3
reactant | water | O | H2O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 3-[[3-(Hexadecyloxy)-2-methoxypropoxy]methyl]benzenemethanol | C(CCCCCCCCCCCCCCC)OCC(COCC=1C=C(C=CC1)CO)OC | C28H50O4
